US07595314B2
3-Fluoro-N-methyl-4-morpholin-4-yl-5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzenesulfonamide
The title compound was prepared according to the procedure described for example 202 from 3,4-Difluoro-N-methyl-5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzenesulfonamide (example CC) and morpholine to yield the title compound as a colourless foam, MS (m/e): 531.1 (M+H, 100%).

reactant | 3,4-Difluoro-N-methyl-5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzenesulfonamide | FC=1C=C(C=C(C1F)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)NC | C19H18F5N3O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-Fluoro-N-methyl-4-morpholin-4-yl-5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-carbonyl]-benzenesulfonamide | FC=1C=C(C=C(C1N1CCOCC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)S(=O)(=O)NC | C23H26F4N4O4S
